US08957205B2
N-[[1-[[(4-Methoxyphenyl)carbonyl]amino]cyclohexyl]carbonyl]-L-methionine
10 ml of N-methylmorpholine was added to 298 mg (2 mmol) of L-methionine and 259 mg (1 mmol) of 2-(4-methoxyphenyl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one, and the mixture was stirred and refluxed under heating overnight. The reaction solution was distilled off under reduced pressure, a 10% aqueous potassium hydrogensulfate solution was added thereto, and the mixture was extracted with methylene chloride three times. The obtained organic layer was dried with anhydrous sodium hydrogensulfate and the solvent was distilled off under reduced pressure. Ethyl acetate was added to the obtained residue, and the mixture was stirred overnight. The precipitated solid was collected by filtration and dried under reduced pressure to obtain 52 mg (13%) of the title compound.

reactant | L-methionine | 2 mmol, 298 mg | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | 2-(4-methoxyphenyl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 1 mmol, 259 mg | COC1=CC=C(C=C1)C1=NC2(C(O1)=O)CCCCC2 | C15H17NO3
solvent | N-methylmorpholine | 10 ml | CN1CCOCC1 | C5H11NO
product | N-[[1-[[(4-Methoxyphenyl)carbonyl]amino]cyclohexyl]carbonyl]-L-methionine | 52 mg, 13% | COC1=CC=C(C=C1)C(=O)NC1(CCCCC1)C(=O)N[C@@H](CCSC)C(=O)O | C20H28N2O5S
